US05872115
Step 2): A mixture of 5-methylthio-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide (500 mg, 1.05 mmol), Fe powder (587 mg, 1.05 mmol), conc. HCl (0.05 ml), H2O (8 ml) and EtOH (35 ml) was refluxed overnight. The insoluble precipitates were filtered off and then the filtrate was evaporated to give 2-amino-5-methylthio-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide as colorless powder, 450 mg (96%): mp 156°-157° C.

reactant | 5-methylthio-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | 1.05 mmol, 500 mg | CSC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C27H29N3O3S
reactant | HCl | 0.05 ml | Cl | ClH
reactant | H2O | 8 ml | O | H2O
catalyst | Fe | 1.05 mmol, 587 mg | [Fe] | Fe
solvent | EtOH | 35 ml | CCO | C2H6O
product | 2-amino-5-methylthio-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | NC1=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)SC | C27H31N3OS
